US05374643
D. 4-Amino-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran
A solution of 4-azido-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran (2.00 g, 8.77 mmol), title C compound, in absolute ethanol (50 mL) was treated with 10% palladium on charcoal (0.25 g) and stirred under hydrogen for 90 minutes at room temperature. The catalyst was filtered off and the filtrate was acidified to pH 1-2 with concentrated HCl (0.85 mL) and concentrated under vacuum to a white solid. The residue was dissolved in 100 mL distilled water and extracted with ethyl acetate (discarded). The aqueous layer was adjusted to pH 11-12 with 50% sodium hydroxide solution and extracted with ethyl acetate. The extracts were washed with brine and dried over magnesium sulfate. The solvent was evaporated under vacuum to provide the title compound (1.542 g, 87%) as a yellow oil which solidified upon standing. The product was used in the next step without further purification.

reactant | 4-azido-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran | 8.77 mmol, 2.00 g | N(=[N+]=[N-])C1CC(OC2=C1C=C(C=C2)C#N)(C)C | C12H12N4O
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.25 g | [Pd] | Pd
product | 4-Amino-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran | 1.542 g, 87% | NC1CC(OC2=C1C=C(C=C2)C#N)(C)C | C12H14N2O
